US07429605B2
3-[4-(4-[1,2,3]Triazol-1-yl-butyl)-phenoxymethyl]-5-(4-trifluoromethyl-phenyl)-pyridine
A solution of 37 mg (0.17 mmol) 4-(4-[1,2,3]triazol-1-yl-butyl)phenol in 2.0 ml N,N-dimethylformamide was treated at 0° C. with 7 mg (0.17 mmol) of 60% sodium hydride and stirred at 0° C. for 30 min. Then 50 mg (0.17 mmol) 3-Chloromethyl-5-(4-trifluoromethyl-phenyl)-pyridine were added and stirred continued at r. t. over night. After addition of 4 ml water, the precipitate was isolated, washed thoroughly with water, n-heptane and diisopropylether. The residue was dried at 40° C. to give 36 mg (46%) of the title compound as light brown powder.

reactant | 4-(4-[1,2,3]triazol-1-yl-butyl)phenol | 0.17 mmol, 37 mg | N1(N=NC=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
reactant | sodium hydride | 0.17 mmol, 7 mg | [H-].[Na+]
reactant | 3-Chloromethyl-5-(4-trifluoromethyl-phenyl)-pyridine | 0.17 mmol, 50 mg | ClCC=1C=NC=C(C1)C1=CC=C(C=C1)C(F)(F)F | C13H9ClF3N
reactant | water | 4 ml | O | H2O
solvent | N,N-dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
product | 3-[4-(4-[1,2,3]Triazol-1-yl-butyl)-phenoxymethyl]-5-(4-trifluoromethyl-phenyl)-pyridine | 36 mg, 46% | N1(N=NC=C1)CCCCC1=CC=C(OCC=2C=NC=C(C2)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C25H23F3N4O
